US05002949
5-[[(5-Bromo-3,6-dihydro-2-methyl-6-oxo-4-pyrimidinyl)amino]methyl]-3-pyridinecarbonitrile
A stirred suspension of 5-bromo-6-chloro-2-methyl-4-pyrimidinol (1.57 g, 7.04 mmol), 5-cyano-3-aminomethylpyridine (1.03 g, 7.74 mmol), and 2,6-lutidine (2.00 mL, 17.4 mmol) in 1,2-dimethoxyethane (7.0 mL) was heated at 90° C. for 15 hours. Solvent was removed in vacuo, and the residue was suspended in water. The white precipitate was isolated by filtration with aqueous rinse, and then recrystallized from methanol/diethyl ether to afford crude product (922 mg, 41%). The crude product was adsorbed onto silica gel. The product was eluted with 4:1 ethyl acetate:hexane (150 mL) followed by methanol (300 mL). The methanol eluant was concentrated in vacuo, and the residue was recrystallized from methanol/diethyl ether to give the title compound in analytically pure form (705 mg, 2.20 mmol, 31% yield): mp 260.0°-260.5° C.; Rf 0.51 (20% MeOH in EtOAc); 1H NMR (DMSO-D6, 400 MHz)δ11.0 (s, 1H), 8.88 (d, J=1.69 Hz, 1H), 8.77 (d, J=1.64 Hz, 1H), 8.16 (s, 1H), 7.34 (t, J=6.14 Hz, 1H), 4.60 (d, J=6.00 Hz, 2H), 2.16 (s, 3H); IR (KBr) 3280 (NH), 2620-3000 (CH), 2230 (CN), 1645, 1605, 1585 (C=C, C=N); UV (MeOH)λ275.5 (ε10900).

reactant | 5-bromo-6-chloro-2-methyl-4-pyrimidinol | 7.04 mmol, 1.57 g | BrC=1C(=NC(=NC1Cl)C)O | C5H4BrClN2O
reactant | 5-cyano-3-aminomethylpyridine | 7.74 mmol, 1.03 g | C(#N)C=1C=C(C=NC1)CN | C7H7N3
reactant | 2,6-lutidine | 17.4 mmol, 2.00 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | 1,2-dimethoxyethane | 7.0 mL | COCCOC | C4H10O2
product | 5-[[(5-Bromo-3,6-dihydro-2-methyl-6-oxo-4-pyrimidinyl)amino]methyl]-3-pyridinecarbonitrile | 31% yield | BrC1=C(NC(=NC1=O)C)NCC=1C=C(C=NC1)C#N | C12H10BrN5O
